US07829572B2
(R)-2-(2-Hydroxy-phenyl)-3-(1-methyl-2-phenyl-ethyl)-5-trifluoromethyl-3H-pyrido[4,3-d]pyrimidin-4-one
(R)-2-(2-methoxyphenyl)-3-(1-phenylpropan-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one (6.6 g, 15.02 mmol) was dissolved in anhydrous dichloromethane (75 mL) and cooled to 0° C. in an ice bath. To this was added a 1M dichloromethane solution of boron trichloride (31.5 mL, 31.5 mmol) slowly to maintain temperature. After addition, the reaction mixture was stirred for 2-5 minutes. The reaction mixture was transferred via canulla to a 0° C. aqueous solution of diethanolamine (10.3 g, 97.6 mmol in 150 mL water) with stirring. The reaction mixture was allowed to come to room temperature and stir for 1 hour. The reaction mixture was diluted with dichloromethane, and the layers separated. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to provide a foam. This foam was purified by silica gel column chromatography using 20-40% ethyl acetate/hexanes as eluant to give a colorless foam which was then crystallized from ethyl acetate/hexanes to provide the product (4.2 g). 1H NMR (400 MHz, CDCl3) δ 8.79 (d, 1H), 7.6 (d, 1H), 7.45 (m, 1H), 7.00 (m, 6H), 6.90 (m, 2H), 3.60 (m, 2H), 3.10 (m, 2H), 1.99 (t, 3H). MS m/z 426.3 (M+H)+.

reactant | (R)-2-(2-methoxyphenyl)-3-(1-phenylpropan-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one | 15.02 mmol, 6.6 g | COC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)[C@@H](CC2=CC=CC=C2)C | C24H20F3N3O2
reactant | boron trichloride | 31.5 mmol, 31.5 mL | B(Cl)(Cl)Cl | BCl3
reactant | diethanolamine | 97.6 mmol, 150 mL, 10.3 g | N(CCO)CCO | C4H11NO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1M | ClCCl | CH2Cl2
product | (R)-2-(2-Hydroxy-phenyl)-3-(1-methyl-2-phenyl-ethyl)-5-trifluoromethyl-3H-pyrido[4,3-d]pyrimidin-4-one | 4.2 g | OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)[C@@H](CC2=CC=CC=C2)C | C23H18F3N3O2
